US06821965B1
N-(2-cyclohexylethyl)-3-(3,4-dimethoxybenzamido)-4-methylbenzamide
Ammonium formate (0.224 g) was added to a stirred mixture of 10% palladium-on-carbon (0.015 g), N-(2-cyclohexen-1-ylethyl)3-(3,4-dimethoxybenzamido)-4-methylbenzamide (0.15 g) and methanol (15 ml), and the reaction mixture was heated to reflux for 1.25 hours. The reaction mixture was allowed to cool and was filtered through diatomaceous earth. The filtrate was evaporated and the residue was triturated under water. The solid so obtained was dried under vacuum at 55° C. to give the title compound as a powder (0.136 g); NMR Spectrum: (CDCl3) 0.8-2.3 (m, 13H). 2.37 (s, 3H), 3.45 (m, 2H), 3.96 (m, 6H), 6.12 (m, 1H), 6.93 (d, 1H), 7.26 (m, 1H), 7.46 (d, 1H), 7.56 (m, 2H), 7.92 (s, 1H), 8.16 (s, 1H); Mass Spectrum: M+H+ 425.

reactant | Ammonium formate | 0.224 g | C(=O)[O-].[NH4+]
reactant | N-(2-cyclohexen-1-ylethyl)3-(3,4-dimethoxybenzamido)-4-methylbenzamide | 0.15 g | C1(=CCCCC1)CCNC(C1=CC(=C(C=C1)C)NC(C1=CC(=C(C=C1)OC)OC)=O)=O | C25H30N2O4
catalyst | palladium-on-carbon | 0.015 g | [Pd] | Pd
solvent | methanol | 15 ml | CO | CH4O
product | N-(2-cyclohexylethyl)-3-(3,4-dimethoxybenzamido)-4-methylbenzamide | 0.136 g | C1(CCCCC1)CCNC(C1=CC(=C(C=C1)C)NC(C1=CC(=C(C=C1)OC)OC)=O)=O | C25H32N2O4
